US07078414B2
d) 3-Ethoxycarbonyl-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole
0.285 g (8.9 mmol) of sodium hydride, at 75% by weight in liquid petroleum jelly, is added at a temperature in the region of 20° C. under an argon atmosphere to a solution of 1.35 g (8.1 mmol) of 3-ethoxycarbonyl-4,5-dimethyl-1H-pyrrole in 8 mL of dimethylformamide. After stirring at a temperature in the region of 40° C. for 0.3 hour, 1.45 g (8.9 mmol) of 4-chloroquinoline and 2 mL of dimethylformamide are added. After stirring at a temperature in the region of 140° C. for 6 hours, the reaction mixture is poured into 100 mL of salt water and then extracted with twice 50 mL of ethyl acetate. The combined organic phases are washed with 15 mL of water, carefully separated by settling and then concentrated to dryness under reduced pressure (2.7 kPa) to give a brown oil which is purified by silica gel chromatography [eluent: cyclohexane/ethyl acetate (75/25 by volume)]. After concentrating the fractions under reduced pressure (2.7 kPa), 1.32 g of 3-ethoxycarbonyl-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole are obtained in the form of a yellowish oil. 1H NMR spectrum (300 MHz, d6-(CD3)2SO, δ in ppm): 1.27 (t, J=7 Hz, 3H), 1.87 (s, 3H), 2.27 (s, 3H), 4.21 (mt, 2H), 7.37 (dd, J=8 and 1 Hz, 1H), 7.55 (s, 1H), 7.62 (d, J=5 Hz, 1H), 7.70 (ddd, J=8, 7 and 1 Hz, 1H), 7.89 (ddd, J=8, 7 and 1 Hz, 1H), 8.19 (broad d, J=8 Hz, 1H), 9.07 (d, J=5 Hz, 1H).

reactant | sodium hydride | 8.9 mmol, 0.285 g | [H-].[Na+]
reactant | 3-ethoxycarbonyl-4,5-dimethyl-1H-pyrrole | 8.1 mmol, 1.35 g | C(C)OC(=O)C1=CNC(=C1C)C | C9H13NO2
reactant | 4-chloroquinoline | 8.9 mmol, 1.45 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | water | O | H2O
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-Ethoxycarbonyl-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole | C(C)OC(=O)C1=CN(C(=C1C)C)C1=CC=NC2=CC=CC=C12 | C18H18N2O2
